US05075445
A mixture of 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine (253 mg, 1.0 mmol), dicyclohexylcarbodiimide (0.83 mg, 4.0 mmol), hexanoic acid (0.38 ml, 0.35 g, 3.0 mmol), 4-dimethylaminopyridine (20 mg) and N,N-dimethylformamide (5 ml) was stirred for 64 hours at room temperature. The mixture was diluted with water and extracted with chloroform (×2). The combined organic layers were washed with aqueous sodium bicarbonate, dried (magnesium sulphate) and the solvent removed. The residue was purified by column chromatography eluting with chloroform-methanol mixtures to afford 9-(4-hexanoyloxy-3-hexanoyloxymethylbut-1-yl)guanine (200 mg, 45%) which was recrystallised from methanol, m.p. 198.5°-201°60 C.; νmax (KBr) 3340, 3160, 2960, 2930, 1740, 1690, 1650, 1605, and 1170 cm-1 ; δH (CDCl3) 0.87 (6 H, t, J 6.9 Hz, 2×CH3), 1.28 (8 H, m, 2×CH 2 CH2CH3), 1.60 (4H, quintet, J 7.4 Hz, 2×COCH2CH2), 1.90 (2 H, q, J 6.9 Hz, CHCH2CH2N), 2.02 (1 H, m, CHCH2CH2N), 2.30 (4 H, t, J 7.6 Hz, 2×COCH2CH2), 4.13 (6 H, m, 2×CH2O and CH2N), 6.42 (2 H, s, D2O exchangeable, 2-NH2), 7.70 (1 H, s, 8-H), and 12.16 (1 H, s, D2O exchangeable, 1-H) (Found: C, 58.97; H, 7.92; N, 15.45%; C22H35N5O5 requires C, 58.78; H, 7.85; N, 15.58%).

reactant | 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | 1.0 mmol, 253 mg | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | dicyclohexylcarbodiimide | 4.0 mmol, 0.83 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hexanoic acid | 3.0 mmol, 0.38 ml, 0.35 g | C(CCCCC)(=O)O | C6H12O2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 9-(4-hexanoyloxy-3-hexanoyloxymethylbut-1-yl)guanine | 200 mg, 45% | C(CCCCC)(=O)OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)COC(CCCCC)=O | C22H35N5O5
